US08859553B2
3-(2-(6-(Isopropylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-isopropyl-6-ethynylpyridazin-3-amine and 3-iodo-4-methyl-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide in a manner similar to that described for in Example 1. The product was obtained as a pale yellow solid. Mp: 141-143° C.; 1H NMR (300 MHz, CDCl3) δ: 9.82 (1H, s), 8.34 (1H, s), 8.20-8.23 (1H, d, J=7.8 Hz), 7.96 (1H, s), 7.84-7.86 (1H, d, J=8.1 Hz), 7.54 (1H, s), 7.29-7.31 (3H, m), 6.81 (1H, s), 6.63-6.66 (1H, d, J=8.4 Hz), 5.11 (1H, brs), 4.08 (1H, m), 2.46 (3H, s), 2.29 (3H, s), 1.28-1.31 (6H, d, J=6.3 Hz). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C28H26F3N6O: 519.2115. found: 519.2116.

reactant | N-isopropyl-6-ethynylpyridazin-3-amine | C(C)(C)NC=1N=NC(=CC1)C#C | C9H11N3
reactant | 3-iodo-4-methyl-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=C(C=C2)N2C=NC(=C2)C)C(F)(F)F)C=CC1C | C19H15F3IN3O
product | 3-(2-(6-(Isopropylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide | C(C)(C)NC1=CC=C(N=N1)C#CC=1C=C(C(=O)NC2=CC(=C(C=C2)N2C=NC(=C2)C)C(F)(F)F)C=CC1C | C28H25F3N6O
